US05977152
(2R,3R)-3-[[Trans-4-[(E)-2-(4-chlorophenyl)vinyl]cyclohexyl]thio]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol
Reaction and treatment were carried out in the same manner as in Example 1 using (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane and trans-1-(acetylthio)-4-[(E)-2-(4-chlorophenyl)vinyl]cyclohexane to obtain the desired compound having a melting point of 64 to 66° C. in a yield of 31%.

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
reactant | trans-1-(acetylthio)-4-[(E)-2-(4-chlorophenyl)vinyl]cyclohexane | C(C)(=O)S[C@@H]1CC[C@H](CC1)\C=C\C1=CC=C(C=C1)Cl | C16H19ClOS
product | (2R,3R)-3-[[Trans-4-[(E)-2-(4-chlorophenyl)vinyl]cyclohexyl]thio]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol | yield of 31% | ClC1=CC=C(C=C1)/C=C/[C@@H]1CC[C@H](CC1)S[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C | C26H28ClF2N3OS
